US05658922
4,7β,20-Trimethyl-20-hydroxy-5α-4-azapregnan-3-one
To a solution of 103 mg (0.31 mmol) 7β-methyl-5α-4-azapregnan-3,20-dione in 10 ml dry tetrahydrofuran at -40° C. under N2 was added 6 eq methylmagnesium bromide (1.86 mmol) in ether. The reaction was stirred and allowed to warm to RT over 90 minutes. Aqueous ammonium chloride (5 ml) was added and the solvents were evaporated. The residue was partitioned between methylene chloride and water. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated. The crude residue was dissolved in 5 ml dry dimethylformamide and cooled to 0° C. Methyl iodide (10 eq, 3.1 mmol) and sodium hydride (2 eq, 0.6 mmol) were added and the reaction was stirred at RT for 48 hours. Aqueous ammonium chloride was added and the reaction mixture was poured onto 100 ml water and extracted with three 25 ml portions of ethyl acetate. The organic layer was washed with water, brine, dried over magnesium sulfate, and evaporated. The product was purified via HPLC on a 19×300 mm 8 micron silica column using a 5 to 20% isopropanol/hexane gradient at 20 ml/min to yield 51 mg (0.141 mmol, 46% yield) of the title compound.

reactant | 7β-methyl-5α-4-azapregnan-3,20-dione | 0.31 mmol, 103 mg | C[C@@H]1[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@@H]2[C@]2(CCC(N[C@@H]2C1)=O)C)C | C21H33NO2
reactant | methylmagnesium bromide | 1.86 mmol, 6 eq | C[Mg]Br
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | Methyl iodide | 3.1 mmol, 10 eq | CI | CH3I
reactant | sodium hydride | 0.6 mmol, 2 eq | [H-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4,7β,20-Trimethyl-20-hydroxy-5α-4-azapregnan-3-one | 0.141 mmol, 51 mg, 46% yield | CN1[C@@H]2C[C@@H]([C@H]3[C@@H]4CC[C@H](C(C)(O)C)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C)C | C23H39NO2
